US04668831
Into 30 ml of carbon tetrachloride were dissolved 9 g of 3-tert-butylphenol and the mixture was heated up to 70° C. With stirring at this temperature, 10.5 g of sulfuryl chloride were added dropwise to the mixture. After completion of this dropwise addition, the reaction mixture was subjected to stirring over a period of 48 hours at 70° C. After cooling the reaction mixture down to room temperature, the reaction mixture was poured into cold water and the resultant product was extracted with carbon tetrachloride. After drying over anhydrous calcium chloride, carbon tetrachloride of the extraction solution was distilled off under reduced pressure, and the residue was purified through a column chromatography (employing silica gel as carrier and benzene as developing solvent) to give 1.3 g of 3-tert-butyl-4-chlorophenol, having the following properties.

reactant | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-tert-butylphenol | 9 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | sulfuryl chloride | 10.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | O | H2O
product | 3-tert-butyl-4-chlorophenol | 1.3 g | C(C)(C)(C)C=1C=C(C=CC1Cl)O | C10H13ClO
